US06028116
A mixture of 3-fluoro-α-methyl-4-methoxy dihydrocinnamic acid, (49.3 g, 0.23 mol) in polyphosphoric acid (500 g) is heated at 95° C. on a steam bath with occasional agitation for 75 min. The dark red solution is stirred with water (3.0 l) overnight. The precipitate is collected, and is washed thoroughly with water. Its solution in ether is extracted with aqueous potassium bicarbonate (4×), is diluted with methylene chloride, is dried (MgSO4), and is evaporated. The residue is recrystallized from methylene chloride/hexanes to give 5-fluoro-6-methoxy-2-methylindanone (m.p. 76-78°).

reactant | 3-fluoro-α-methyl-4-methoxy dihydrocinnamic acid | 0.23 mol, 49.3 g | FC=1C=C(CC(C(=O)O)C)C=CC1OC | C11H13FO3
solvent | water | 3.0 l | O | H2O
product | 5-fluoro-6-methoxy-2-methylindanone | FC=1C=C2CC(C(C2=CC1OC)=O)C | C11H11FO2
